US05892024
Example 12: 5'-O-Carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl thymidine
To a solution of 5'-vinyl-3'-O-t-butyldimethylsilyl thymidine (2.0 g) in 30 ml of methylene chloride was added ethyl chloroformate (6 eq.) and pyridine (12 eq.) and the resulting mixture was stirred for 2 hours. The mixture was diluted with ethyl acetate, washed with aqueous sodium bicarbonate, then with water (2×25 ml), and then with brine. Then the organic layer was dried. The title compound was purified by flash chromatography using 20% ethyl acetate/hexane.

reactant | 5'-vinyl-3'-O-t-butyldimethylsilyl thymidine | 2.0 g | C(=C)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O[Si](C)(C)C(C)(C)C)O | C18H30N2O5Si
reactant | ethyl chloroformate | 6 eq. | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 12 eq. | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5'-O-Carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl thymidine | C(=O)(OCC)OC([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O[Si](C)(C)C(C)(C)C)C=C | C21H34N2O7Si
